US07834028B2
2-(2-Ethyl-5-methyl-2H-pyrazol-3-yl)-ethylamine (148 mg, 0.97 mmol) was dissolved in ethanol (3 ml) and acetic acid (116.5 mg. 1.94 mmol) was added followed by the addition of 3-(4-trifluoromethyl-phenyl)-propionaldehyde (197 mg, 0.97 mmol). The mixture was sealed and put in the microwave oven (100 Watts; 130° C., 14 bar, 6 minutes). The solvents were removed under reduced pressure and the residue was purified by prep. HPLC to give 113 mg (34.5%) of 1-ethyl-3-methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine. LC-MS: tR=0.75 min; [M+H]+=338.22.

reactant | 2-(2-Ethyl-5-methyl-2H-pyrazol-3-yl)-ethylamine | 0.97 mmol, 148 mg | C(C)N1N=C(C=C1CCN)C | C8H15N3
reactant | acetic acid | 1.94 mmol, 116.5 mg | C(C)(=O)O | C2H4O2
reactant | 3-(4-trifluoromethyl-phenyl)-propionaldehyde | 0.97 mmol, 197 mg | FC(C1=CC=C(C=C1)CCC=O)(F)F | C10H9F3O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-ethyl-3-methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 113 mg, 34.5% | C(C)N1N=C(C=2C(NCCC21)CCC2=CC=C(C=C2)C(F)(F)F)C | C18H22F3N3
